### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Define diameter of simple graphs and provide basic lemmas related to it

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
This defines the diameter of a simple graph, and provides a basic API for it.

Co-authored-by: Matt Diamond <matt@matt-diamond.com>

---

- [x] depends on: #11945
- [x] depends on: #15675

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+    G'.diam ≤ G.diam :=
+  have ⟨u, v, huv⟩ := G'.diam_exists
+  huv ▸ LE.le.trans (dist_le_subgraph_dist h (hg u v)) (G.diam_le hz u v)
+
+/--
+The extended diameter is the greatest distance between any two vertices, with the value `⊤` in
+case the distances are not bounded above.
+-/
+noncomputable def ediam (G : SimpleGraph α) : ℕ∞ :=
+  sSup {d | ∃ u v : α, d = G.dist u v}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:103]: ... and similarly here the e-diam of a disconnected graph will be the maximum of the e-diam of its components instead of being infinite.

I think the correct definition is
```suggestion
/--
The extended diameter is the greatest distance between any two vertices, with the value `⊤` in
case the distances are not bounded above.
-/
noncomputable def ediam (G : SimpleGraph α) : ℕ∞ := ⨆ u v, G.edist u v
```
where `G.dist u v = (G.edist u v).toNat`. Then
```
noncomputable def diam (G : SimpleGraph α) : ℕ∞ := G.ediam.toNat
```
will be the correct notion

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+
+lemma le_ediam {u v : α} : G.dist u v ≤ G.ediam := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:105]: Then this will be 
```suggestion
lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam := by
```
etc

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+
+## Main definitions
+
+- `SimpleGraph.diam` is the graph diameter.
+
+- `SimpleGraph.ediam` is the graph extended diameter.
+
+## Todo
+
+- Prove that `ENat.toNat G.girth ≤ 2 * G.diam + 1` when the diameter is non-zero.
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:23]: Thank you for the review, I've created #13910 to do this!

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:103]: Yes, that would be great!

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Does this approach seem good? There is still a lot of work do be done (I've marked the PR as WIP), but I would like to check that I'm not building the API on wrong foundations. Also I would love to hear @b-mehta's opinion on this.

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Yeah I think Yaël's suggestion is the right one

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+lemma diam_bot : (⊥ : SimpleGraph α).diam = 0 := by
+  unfold diam
+  by_cases h : Nonempty α
+  · have : {d | ∃ u v, d = (⊥ : SimpleGraph α).dist u v} = {0} :=
+      Set.ext_iff.mpr fun _ ↦ ⟨fun ⟨_, _, h⟩ ↦ dist_bot _ _ ▸ h,
+      fun h ↦ ⟨Classical.arbitrary α, Classical.arbitrary α, dist_bot _ _ ▸ h⟩⟩
+    exact this ▸ csSup_singleton _
+  · simp_all
+
+lemma diam_eq_zero : G.diam = 0 ↔ ¬BddAbove {d | ∃ u v, d = G.dist u v} ∨ G = ⊥ := by
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Do you think this idea still works well with the new implementation?

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+    obtain ⟨u, v, huv⟩ := Nat.sSup_mem this h
+    use u, v, huv.symm
+  · exact not_bddAbove_diam_eq_zero h ▸ ⟨u, u, dist_self⟩
+
+lemma bddAbove_dist_le_diam (h : BddAbove {d | ∃ u v, d = G.dist u v}) :
+    ∀ u v, G.dist u v ≤ G.diam := by
+  rw [diam, Nat.sSup_def h]
+  aesop
+
+lemma diam_bot : (⊥ : SimpleGraph α).diam = 0 := by
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: What about the complete graph on one vertex in `diam_top` and `diam_eq_one`? Is there an instance instead of `[Nonempty α]` that removes that case?

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 1 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: I didn't mean to imply that Yaël's isn't right, instead, I'm wondering if this type of proofs using the weird `ediam_def` are okay. Sorry for the ambiguous question!

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Nontrivial, I guess

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 6]
```diff
@@ -0,0 +1,205 @@
...
+Copyright (c) 2024 Rida Hamadani. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rida Hamadani
+-/
+import Mathlib.Combinatorics.SimpleGraph.Metric
+
+/-!
+# Diameter of a simple graph
+
+This module defines the diameter of a simple graph, which measure the maximum distance between
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:11]:
```suggestion
This module defines the diameter of a simple graph, which measures the maximum distance between
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 7]
```diff
@@ -0,0 +1,205 @@
...
+namespace SimpleGraph
+variable {α : Type*} {G G' : SimpleGraph α}
+
+section ediam
+
+/--
+The extended diameter is the greatest distance between any two vertices, with the value `⊤` in
+case the distances are not bounded above.
+-/
+noncomputable def ediam (G : SimpleGraph α) :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:36]: Let's add the type of this for readability

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 8]
```diff
@@ -0,0 +1,205 @@
...
+lemma ediam_def : G.ediam = ⨆ p : (α × α), G.edist p.1 p.2 := by
+  rw [ediam, iSup_prod]
+
+lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam :=
+  LE.le.trans (le_iSup _ _) <| le_iSup_iff.mpr fun _ h ↦ h u
+
+lemma ediam_eq_top_iff : G.ediam = ⊤ ↔ ∀ b < ⊤, ∃ u v, b < G.edist u v := by
+  simp only [ediam, iSup_eq_top, lt_iSup_iff]
+
+lemma nonempty_of_ediam_ne_zero (h : G.ediam ≠ 0) : Nonempty α := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:48]: Let's make the contrapositive a lemma: G.ediam = 0 under the assumption [IsEmpty \a]

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 9]
```diff
@@ -0,0 +1,205 @@
...
+  rw [connected_iff_exists_forall_reachable] at h
+  push_neg at h
+  obtain ⟨_, hw⟩ := h Classical.ofNonempty
+  rw [eq_top_iff, ← edist_eq_top_of_not_reachable hw]
+  exact edist_le_ediam
+
+lemma exists_edist_eq_ediam_of_ne_top [Nonempty α] (h : G.ediam ≠ ⊤) :
+    ∃ u v, G.edist u v = G.ediam := by
+  let f : (α × α) → ℕ∞ := fun p ↦ G.edist p.1 p.2
+  convert_to (∃ p : (α × α), f p = ⨆ p : (α × α), f p)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:62]: Hmm `convert_to` is often a sign there's an API lemma missing. Doesn't `ediam_def` help a little?

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 10]
```diff
@@ -0,0 +1,205 @@
...
+  rw [ediam_def, iSup_le_iff] at h₁
+  exact edist_eq_one_iff_adj.mp <| le_antisymm (h₁ (u, v)) <| ENat.one_le_iff_pos.mpr h₂
+
+end ediam
+
+section diam
+
+/--
+The diameter is the greatest distance between any two vertices, with the value `0` in
+case the distances are not bounded above.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:134]:
```suggestion
case the distances are not bounded above, or the graph is not connected.
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 11]
```diff
@@ -0,0 +1,206 @@
...
+
+lemma ediam_eq_top_iff : G.ediam = ⊤ ↔ ∀ b < ⊤, ∃ u v, b < G.edist u v := by
+  simp only [ediam, iSup_eq_top, lt_iSup_iff]
+
+lemma ediam_eq_zero_of_isEmpty [IsEmpty α] : G.ediam = 0 := by
+  rw [ediam, ciSup_of_empty, bot_eq_zero']
+
+lemma nonempty_of_ediam_ne_zero (h : G.ediam ≠ 0) : Nonempty α := by
+  contrapose! h
+  apply not_nonempty_iff.mp at h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:53]: Can you tag `not_nonempty_iff` with `push_neg`? Then you shouldn't need this line anymore

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 12]
```diff
@@ -0,0 +1,206 @@
...
+
+lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
+    ∃ u v, G.edist u v = G.ediam := by
+  let f : (α × α) → ℕ∞ := fun p ↦ G.edist p.1 p.2
+  by_cases h : G.ediam = ⊤
+  · have : ⨆ p, f p = ⊤ := by simp [f, ediam_def ▸ h]
+    have : ⊤ ∈ Set.range f := by
+      rw [← this]
+      exact Set.Nonempty.csSup_mem Set.nonempty_of_nonempty_subtype <|
+        Finite.Set.finite_replacement f
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:76]:
```suggestion
      exact (Set.range_nonempty _).csSup_mem (Set.finite_range _)
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 13]
```diff
@@ -0,0 +1,206 @@
...
+    simp_all
+  · exact exists_edist_eq_ediam_of_ne_top h
+
+lemma ediam_mono_of_ne_top [Nonempty α] (h : G ≤ G') (hn : G'.ediam ≠ ⊤) :
+    G'.ediam ≤ G.ediam :=
+  have ⟨_, _, huv⟩ := G'.exists_edist_eq_ediam_of_ne_top hn
+  huv ▸ LE.le.trans (edist_le_subgraph_edist h) <| edist_le_ediam
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:83]:
```suggestion
  huv ▸ (edist_le_subgraph_edist h).trans edist_le_ediam
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 14]
```diff
@@ -0,0 +1,206 @@
...
+
+lemma ediam_mono_of_finite [Nonempty α] [Finite α] (h : G ≤ G') :
+    G'.ediam ≤ G.ediam :=
+  have ⟨_, _, huv⟩ := G'.exists_edist_eq_ediam_of_finite
+  huv ▸ LE.le.trans (edist_le_subgraph_edist h) <| edist_le_ediam
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:88]: Same here

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 15]
```diff
@@ -0,0 +1,206 @@
...
+lemma ediam_def : G.ediam = ⨆ p : (α × α), G.edist p.1 p.2 := by
+  rw [ediam, iSup_prod]
+
+lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam :=
+  LE.le.trans (le_iSup _ _) <| le_iSup_iff.mpr fun _ h ↦ h u
+
+lemma ediam_eq_top_iff : G.ediam = ⊤ ↔ ∀ b < ⊤, ∃ u v, b < G.edist u v := by
+  simp only [ediam, iSup_eq_top, lt_iSup_iff]
+
+lemma ediam_eq_zero_of_isEmpty [IsEmpty α] : G.ediam = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:48]:
```suggestion
lemma ediam_eq_zero_of_subsingleton [Subsingleton α] : G.ediam = 0 := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 16]
```diff
@@ -0,0 +1,206 @@
...
+  rw [ediam, ciSup_of_empty, bot_eq_zero']
+
+lemma nonempty_of_ediam_ne_zero (h : G.ediam ≠ 0) : Nonempty α := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:51]:
```suggestion
lemma nontrivial_of_ediam_ne_zero (h : G.ediam ≠ 0) : Nontrivial α := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 11 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:53]: I'm getting an "unknown attribute" error

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 16 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:51]: The point of having this is that there are many lemmas in this API which require `Nonempty α` as a typeclass assumption, so I thought this would provide an easy way to have that assumption.
What do you think of turning `zero_lt_ediam_of_nontrivial` into an iff statement instead?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:51]: Having it as an iff statement is good, but we should also have the alias for the nontrivial => ... and subsingleton => ... versions, where the assumption is a typeclass assumption

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:53]: Oh maybe the attribute is just simp

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:51]: Well, typeclass search knows that `Nontrivial α` implies `Nonempty α`, so I don't really see the problem?

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 11 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:53]: It has a simp attribute already

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 16 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:51]: Ah, good to know! Working on it.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:51]: For clarity, I was replying to Rida's message above

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 17]
```diff
@@ -0,0 +1,208 @@
...
+section ediam
+
+/--
+The extended diameter is the greatest distance between any two vertices, with the value `⊤` in
+case the distances are not bounded above, or the graph is not connected.
+-/
+noncomputable def ediam (G : SimpleGraph α) : ℕ∞ :=
+  ⨆ u, ⨆ v, G.edist u v
+
+lemma ediam_def : G.ediam = ⨆ p : (α × α), G.edist p.1 p.2 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:39]:
```suggestion
lemma ediam_def : G.ediam = ⨆ p : α × α, G.edist p.1 p.2 := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 18]
```diff
@@ -0,0 +1,208 @@
...
+  rw [ediam, iSup_prod]
+
+lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam :=
+  (le_iSup _ _).trans <| le_iSup_iff.mpr fun _ h ↦ h u
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:43]:
```suggestion
lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam := le_iSup₂ u v
```
In general, you should use `le_iSup_of_le` to chain, rather than `le_iSup`

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 19]
```diff
@@ -0,0 +1,208 @@
...
+lemma ediam_eq_top_iff : G.ediam = ⊤ ↔ ∀ b < ⊤, ∃ u v, b < G.edist u v := by
+  simp only [ediam, iSup_eq_top, lt_iSup_iff]
+
+lemma ediam_eq_zero_of_subsingleton [Subsingleton α] : G.ediam = 0 := by
+  rw [ediam_def, ENat.iSup_eq_zero]
+  simpa [edist_eq_zero_iff, Prod.forall] using subsingleton_iff.mp ‹_›
+
+lemma nontrivial_of_ediam_ne_zero (h : G.ediam ≠ 0) : Nontrivial α := by
+  contrapose! h
+  apply not_nontrivial_iff_subsingleton.mp at h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:54]:
```suggestion
  rw [not_nontrivial_iff_subsingleton] at h
```
seems clearer

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 20]
```diff
@@ -0,0 +1,208 @@
...
+  exact ediam_eq_zero_of_subsingleton
+
+lemma ediam_ne_zero_of_nontrivial [Nontrivial α] : G.ediam ≠ 0 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:57]:
```suggestion
lemma ediam_ne_zero [Nontrivial α] : G.ediam ≠ 0 := by
```
since it's a typeclass assumption and `ediam_ne_zero_iff_nontrivial` also exists

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 21]
```diff
@@ -0,0 +1,208 @@
...
+lemma ediam_ne_zero_iff_nontrivial :
+    G.ediam ≠ 0 ↔ Nontrivial α :=
+  ⟨nontrivial_of_ediam_ne_zero, fun _ ↦ ediam_ne_zero_of_nontrivial⟩
+
+@[simp]
+lemma ediam_eq_zero_iff_subsingleton :
+    G.ediam = 0 ↔ Subsingleton α :=
+  ⟨subsingleton_of_ediam_eq_zero, fun _ ↦ ediam_eq_zero_of_subsingleton⟩
+
+lemma ediam_eq_top_of_not_connected [Nonempty α] (h : ¬G.Connected) : G.ediam = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:77]: Can we also have
```
lemma ediam_eq_top_of_not_preconnected (h : ¬G.Preconnected) : G.ediam = ⊤ := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 22]
```diff
@@ -0,0 +1,208 @@
...
+  use u, v
+  rw [diam, dist, congrArg ENat.toNat huv]
+
+lemma exists_dist_eq_diam_of_finite [Nonempty α] [Finite α] :
+    ∃ u v, G.dist u v = G.diam := by
+  obtain ⟨u, v, huv⟩ := G.exists_edist_eq_ediam_of_finite
+  use u, v
+  rw [diam, dist, congrArg ENat.toNat huv]
+
+lemma diam_mono_of_ne_zero (h : G ≤ G') (hn₁ : G'.diam ≠ 0) (hn₂ : G.diam ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:174]: If `G'.diam = 0` then `G'.diam ≤ G.diam`
```suggestion
lemma diam_mono_of_ne_zero (h : G ≤ G') (hG : G.diam ≠ 0) :
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 23]
```diff
@@ -0,0 +1,208 @@
...
+    G'.diam ≤ G.diam :=
+  have : Nontrivial α := nontrivial_of_diam_ne_zero hn₁
+  ENat.toNat_le_toNat (ediam_mono_of_ne_top h (ediam_ne_top_of_diam_ne_zero hn₁))
+    <| ediam_ne_top_of_diam_ne_zero hn₂
+
+lemma diam_mono_of_finite [Nonempty α] [Finite α] (h : G ≤ G') (hn : G.diam ≠ 0) :
+    G'.diam ≤ G.diam :=
+  ENat.toNat_le_toNat (ediam_mono_of_finite h) <| ediam_ne_top_of_diam_ne_zero hn
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:182]: So this lemma is useless

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 24]
```diff
@@ -0,0 +1,208 @@
...
+
+@[simp]
+lemma diam_bot : (⊥ : SimpleGraph α).diam = 0 := by
+  rw [diam, ENat.toNat_eq_zero]
+  cases subsingleton_or_nontrivial α
+  · exact Or.inl <| ediam_eq_zero_iff_subsingleton.mpr ‹_›
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:188]:
```suggestion
  · exact Or.inl ediam_eq_zero_of_subsingleton
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 25]
```diff
@@ -0,0 +1,208 @@
...
+  apply G.nontrivial_of_ediam_ne_zero
+  contrapose! h
+  simp [diam, h]
+
+lemma diam_eq_zero_of_not_connected (h : ¬G.Connected) : G.diam = 0 := by
+  cases isEmpty_or_nonempty α
+  · rw [diam, ediam, ciSup_of_empty, bot_eq_zero']; rfl
+  · rw [diam, ediam_eq_top_of_not_connected h, ENat.toNat_top]
+
+lemma ediam_ne_top_of_diam_ne_zero (h : G.diam ≠ 0) : G.ediam ≠ ⊤ :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:158]: You're missing the contraposite

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 26]
```diff
@@ -0,0 +1,208 @@
...
+  Ne.symm <| ne_of_apply_ne ENat.toNat fun a ↦ h <| id a.symm
+
+lemma exists_dist_eq_diam_of_ne_zero (h : G.diam ≠ 0) :
+    ∃ u v, G.dist u v = G.diam := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:162]: If `G.diam = 0`, then you can take `u = v`.
```suggestion
lemma exists_dist_eq_diam_of_ne_zero [Nonempty α] :
    ∃ u v, G.dist u v = G.diam := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: I am confused. Can you ask on Zulip?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Yes, that sounds like a plan! Thanks

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 18 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:43]: This is not working, maybe because the types of the parameters at `le_iSup₂` are different from what we have here? But I've used `le_iSup_of_le` for chaining, thanks!

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Ah sorry, `biSup_mono` is the lemma you want to be using here

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: It is not clear to me how it applies here. Maybe I'm misunderstanding something, but `biSup_mono` seems to be a comparison between two `iSup`s, and the second parameter seems to be of type `prop` which depends on the first parameter.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: No, I was right. `le_iSup₂` is the correct lemma. Elaboration just seems to be weak
```suggestion
lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam := le_iSup₂ (f := G.edist) u v
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 27]
```diff
@@ -0,0 +1,218 @@
...
+  rw [connected_iff_exists_forall_reachable] at h
+  push_neg at h
+  obtain ⟨_, hw⟩ := h Classical.ofNonempty
+  rw [eq_top_iff, ← edist_eq_top_of_not_reachable hw]
+  exact edist_le_ediam
+
+lemma ediam_eq_top_of_not_preconnected (h : ¬G.Preconnected) : G.ediam = ⊤ := by
+  cases isEmpty_or_nonempty α
+  · exfalso
+    exact h <| IsEmpty.forall_iff.mpr trivial
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:87]: Just FYI this can be written as
```suggestion
  · cases h <| IsEmpty.forall_iff.mpr trivial
```
or
```suggestion
  · simp [Preconnected] at h
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 18 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Ah, this notation is new to me, thank you very much!

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 28]
```diff
@@ -0,0 +1,218 @@
...
+
+lemma ediam_mono_of_ne_top [Nonempty α] (h : G ≤ G') (hn : G'.ediam ≠ ⊤) :
+    G'.ediam ≤ G.ediam :=
+  have ⟨_, _, huv⟩ := G'.exists_edist_eq_ediam_of_ne_top hn
+  huv ▸ (edist_le_subgraph_edist h).trans edist_le_ediam
+
+lemma ediam_mono_of_finite [Nonempty α] [Finite α] (h : G ≤ G') :
+    G'.ediam ≤ G.ediam :=
+  have ⟨_, _, huv⟩ := G'.exists_edist_eq_ediam_of_finite
+  huv ▸ (edist_le_subgraph_edist h).trans edist_le_ediam
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:114]: You should stop thinking about the supremum as "either the maximum value of my function or infinity if my function is unbounded" and start thinking in terms of its universal property (which is usually all you need, really):
```suggestion
@[gcongr] lemma ediam_anti (h : G ≤ G') : G'.ediam ≤ G.ediam :=
  iSup₂_mono fun _ _ ↦ edist_le_subgraph_edist h
```
(btw `edist_le_subgraph_edist` should be called `edist_mono` and tagged `gcongr`, if you mind opening a PR!)

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 29]
```diff
@@ -0,0 +1,218 @@
...
+  use u, v
+  rw [diam, dist, congrArg ENat.toNat huv]
+
+lemma diam_mono_of_ne_zero (h : G ≤ G') (hn : G.diam ≠ 0) :
+    G'.diam ≤ G.diam := by
+  by_cases hn' : G'.diam = 0
+  · omega
+  · have : Nontrivial α := nontrivial_of_diam_ne_zero hn
+    exact ENat.toNat_le_toNat (ediam_mono_of_ne_top h (ediam_ne_top_of_diam_ne_zero hn'))
+      <| ediam_ne_top_of_diam_ne_zero hn
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:192]: Similarly here you worked too hard, probably because you overstrengthened `hn`
```suggestion
lemma diam_mono_of_ediam_ne_top (h : G ≤ G') (hn : G.ediam ≠ ⊤) : G'.diam ≤ G.diam :=
  ENat.toNat_le_toNat (ediam_mono h) hn
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 28 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:114]: I'm surprised I didn't notice that the hypotheses aren't needed. Thank you for the tip! I will keep it in mind. It highlights how `noncomputable` definitions can be more powerful than computational ones (to me, the universal property feels `noncomputable`-like, as opposed to the former which feels more computational).

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean:114]: Yes, quite precisely!

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 30]
```diff
@@ -0,0 +1,202 @@
...
+lemma diam_eq_zero_of_not_connected (h : ¬G.Connected) : G.diam = 0 := by
+  cases isEmpty_or_nonempty α
+  · rw [diam, ediam, ciSup_of_empty, bot_eq_zero']; rfl
+  · rw [diam, ediam_eq_top_of_not_connected h, ENat.toNat_top]
+
+lemma ediam_ne_top_of_diam_ne_zero (h : G.diam ≠ 0) : G.ediam ≠ ⊤ :=
+  Ne.symm <| ne_of_apply_ne ENat.toNat fun a ↦ h <| id a.symm
+
+lemma diam_eq_zero_of_ediam_ne_top (h : G.ediam = ⊤) : G.diam = 0 :=
+  ediam_ne_top_of_diam_ne_zero.mtr h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:164]:
```suggestion
lemma diam_eq_zero_of_ediam_eq_top (h : G.ediam = ⊤) : G.diam = 0 := by
  rw [diam, h, ENat.toNat_top]

lemma ediam_ne_top_of_diam_ne_zero (h : G.diam ≠ 0) : G.ediam ≠ ⊤ :=
  mt diam_eq_zero_of_ediam_eq_top  h
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 31]
```diff
@@ -0,0 +1,202 @@
...
+lemma exists_dist_eq_diam_of_ne_zero [Nonempty α] :
+    ∃ u v, G.dist u v = G.diam := by
+  by_cases h : G.diam = 0
+  · simp [h]
+  · obtain ⟨u, v, huv⟩ := exists_edist_eq_ediam_of_ne_top <| ediam_ne_top_of_diam_ne_zero h
+    use u, v
+    rw [diam, dist, congrArg ENat.toNat huv]
+
+@[gcongr]
+lemma diam_mono_of_ediam_ne_top (h : G ≤ G') (hn : G.ediam ≠ ⊤) : G'.diam ≤ G.diam :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:175]:
```suggestion
lemma diam_anti_of_ediam_ne_top (h : G ≤ G') (hn : G.ediam ≠ ⊤) : G'.diam ≤ G.diam :=
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 32]
```diff
@@ -0,0 +1,202 @@
...
+noncomputable def ediam (G : SimpleGraph α) : ℕ∞ :=
+  ⨆ u, ⨆ v, G.edist u v
+
+lemma ediam_def : G.ediam = ⨆ p : α × α, G.edist p.1 p.2 := by
+  rw [ediam, iSup_prod]
+
+lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam :=
+  le_iSup₂ (f := G.edist) u v
+
+lemma ediam_eq_top_iff : G.ediam = ⊤ ↔ ∀ b < ⊤, ∃ u v, b < G.edist u v := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:45]: I think this is descriptive enough
```suggestion
lemma ediam_eq_top : G.ediam = ⊤ ↔ ∀ b < ⊤, ∃ u v, b < G.edist u v := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 33]
```diff
@@ -0,0 +1,202 @@
...
+    <| ediam_def ▸ (ENat.sSup_mem_of_Nonempty_of_lt_top <| lt_top_iff_ne_top.mpr <| ediam_def ▸ h)
+
+lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
+    ∃ u v, G.edist u v = G.ediam := by
+  let f : (α × α) → ℕ∞ := fun p ↦ G.edist p.1 p.2
+  by_cases h : G.ediam = ⊤
+  · have : ⨆ p, f p = ⊤ := by simp [f, ediam_def ▸ h]
+    have : ⊤ ∈ Set.range f := this ▸ (Set.range_nonempty _).csSup_mem (Set.finite_range _)
+    simp_all
+  · exact exists_edist_eq_ediam_of_ne_top h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:104]: These two are general lemma about `iSup` respectively on
* `ENat`
* a `CompleteLinearOrder`

Can you make their proofs are one-liners from the respective APIs?

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean [hunk 34]
```diff
@@ -0,0 +1,202 @@
...
+  · rw [diam, ediam, ciSup_of_empty, bot_eq_zero']; rfl
+  · rw [diam, ediam_eq_top_of_not_connected h, ENat.toNat_top]
+
+lemma diam_eq_zero_of_ediam_eq_top (h : G.ediam = ⊤) : G.diam = 0 := by
+  rw [diam, h, ENat.toNat_top]
+
+lemma ediam_ne_top_of_diam_ne_zero (h : G.diam ≠ 0) : G.ediam ≠ ⊤ :=
+  mt diam_eq_zero_of_ediam_eq_top  h
+
+lemma exists_dist_eq_diam_of_ne_zero [Nonempty α] :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Diameter.lean:166]:
```suggestion
lemma exists_dist_eq_diam [Nonempty α] :
```

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 33 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: I did the first one, I'm having trouble with the second one. Is the API of `CompleteLinearOrder` located in `Order/CompleteLattice`? If yes, then that file doesn't import `Finite`. Should I import it there?

File: Mathlib/Data/ENat/Lattice.lean [hunk 35]
```diff
@@ -100,4 +100,9 @@ lemma finite_of_sSup_lt_top (h : sSup s < ⊤) : s.Finite := by
 lemma sSup_mem_of_Nonempty_of_lt_top [Nonempty s] (hs' : sSup s < ⊤) : sSup s ∈ s :=
   Nonempty.csSup_mem nonempty_of_nonempty_subtype (finite_of_sSup_lt_top hs')
 
+lemma exists_eq_iSup₂_of_lt_top {ι₁ ι₂: Type*} {f : ι₁ → ι₂ → ℕ∞} [Nonempty ι₁] [Nonempty ι₂]
```
Comment (YaelDillies) [inline Mathlib/Data/ENat/Lattice.lean:103]:
```suggestion
lemma exists_eq_iSup₂_of_lt_top {ι₁ ι₂ : Type*} {f : ι₁ → ι₂ → ℕ∞} [Nonempty ι₁] [Nonempty ι₂]
```

File: Mathlib/Data/ENat/Lattice.lean [hunk 36]
```diff
@@ -100,4 +100,9 @@ lemma finite_of_sSup_lt_top (h : sSup s < ⊤) : s.Finite := by
...
+    (h : ⨆ i, ⨆ j, f i j < ⊤) : ∃ i j, f i j = ⨆ i, ⨆ j, f i j := by
```
Comment (YaelDillies) [inline Mathlib/Data/ENat/Lattice.lean:104]: Can we also have `exists_eq_iSup_of_lt_top`?

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 33 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Yes, should be fine

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 37]
```diff
@@ -0,0 +1,201 @@
...
+    exact h <| IsEmpty.forall_iff.mpr trivial
+  · apply ediam_eq_top_of_not_connected
+    rw [connected_iff]
+    tauto
+
+lemma exists_edist_eq_ediam_of_ne_top [Nonempty α] (h : G.ediam ≠ ⊤) :
+    ∃ u v, G.edist u v = G.ediam :=
+  ENat.exists_eq_iSup₂_of_lt_top h.lt_top
+
+lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:96]: I'd be tempted to leave a comment here saying that neither of `Finite α` or `G.ediam ≠ ⊤` implies the other

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 38]
```diff
@@ -0,0 +1,201 @@
...
+The extended diameter is the greatest distance between any two vertices, with the value `⊤` in
+case the distances are not bounded above, or the graph is not connected.
+-/
+noncomputable def ediam (G : SimpleGraph α) : ℕ∞ :=
+  ⨆ u, ⨆ v, G.edist u v
+
+lemma ediam_def : G.ediam = ⨆ p : α × α, G.edist p.1 p.2 := by
+  rw [ediam, iSup_prod]
+
+lemma edist_le_ediam {u v : α} : G.edist u v ≤ G.ediam :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:42]: We should add the other half of the universal property: if every edist is <= k, then the ediam is <= k as well. Similarly for diam

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:42]: Actually, we should have the universal property as a lemma `ediam_le_iff : G.ediam \le k \iff \for u v, G.edist u v \le k`

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:42]: Yeah that too!

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 33 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: I've wrote the lemma in `ConditionallyCompleteLinearOrder` instead because it has the needed lemma `Nonempty.csSup_mem`, and because it is more general. However, I can't provide `iSup₂` version there because there is no `iSup_prod` lemmas. Is this fine for now? Another solution would be to move these lemmas to `CompleteLinearOrder`, but then work will need to be done to bring the equivalent of `Nonempty.csSup_mem` to there.

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 39]
```diff
@@ -46,6 +46,12 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
 theorem Set.Finite.lt_csInf_iff (hs : s.Finite) (h : s.Nonempty) : a < sInf s ↔ ∀ x ∈ s, a < x :=
   @Set.Finite.csSup_lt_iff αᵒᵈ _ _ _ hs h
 
+theorem Finite.ciSup_mem [Nonempty ι] [Finite ι] {f : ι → α} : ∃ i, f i = ⨆ i, f i :=
+  Nonempty.csSup_mem (range_nonempty f) (finite_range f)
+
+theorem Finite.ciInf_mem [Nonempty ι] [Finite ι] {f : ι → α} : ∃ i, f i = ⨅ i, f i :=
```
Comment (YaelDillies) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:52]:
```suggestion
theorem exists_eq_ciSup_of_finite [Nonempty ι] [Finite ι] {f : ι → α} : ∃ i, f i = ⨆ i, f i :=
  Nonempty.csSup_mem (range_nonempty f) (finite_range f)

theorem exists_eq_ciInf_of_finite [Nonempty ι] [Finite ι] {f : ι → α} : ∃ i, f i = ⨅ i, f i :=
```

**Review by YaelDillies — APPROVED** [review]
Sorry for the long review, but it looks good now!

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Diameter.lean (hunk 33 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Diameter.lean]: Yes indeed I think it's fie

**Comment by kmill** [comment]
Thanks!

bors r+
